US04801609
Step 1: N-(3-Acetylthio-2-Benzylpropionyl)-S-(t-Butyl)-L-Cysteine Methyl Ester (Isomers A and B):
React S-(t-butyl)-L-cysteine methyl ester (2.32 g) and 3-acetylthio-2-benzylpropionic acid (3.22 g) in the manner described in Example 1, Step 1 to give an orange solid. Chromatograph this solid on a column of silica gel (2L, 60-200 mesh) and elute with ethyl acetate:hexane 3:17 to give Isomer A, a clear oil (1.09 g), [α]D26 =-44.9° (MeOH); overlap Isomer A and Isomer B (0.52 g); and Isomer B, a clear oil (0.75 g), [α]D26 =+8.3° (MeOH).

reactant | S-(t-butyl)-L-cysteine methyl ester | 2.32 g | COC([C@@H](N)CSC(C)(C)C)=O | C8H17NO2S
reactant | 3-acetylthio-2-benzylpropionic acid | 3.22 g | C(C)(=O)SCC(C(=O)O)CC1=CC=CC=C1 | C12H14O3S
solvent | MeOH | CO | CH4O
product | N-(3-Acetylthio-2-Benzylpropionyl)-S-(t-Butyl)-L-Cysteine Methyl Ester | COC([C@@H](NC(C(CSC(C)=O)CC1=CC=CC=C1)=O)CSC(C)(C)C)=O | C20H29NO4S2
